US04057647
2.78 g. of 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol are dissolved in 30 ml. of acetic acid and hydrogenated at 20° and under 1 atmosphere on 0.5 g of 10% Pd-C until the reaction has ceased. Filtering and evaporating gives 3-(2',4'-difluoro-4-biphenylyl)butan-1-ol.

reactant | 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CCO)(C)O | C16H16F2O2
catalyst | Pd-C | 0.5 g | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(2',4'-difluoro-4-biphenylyl)butan-1-ol | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CCO)C | C16H16F2O
